US05574042
To a solution of N,N-bis(2-methoxyethyl)amine (2.40 g) and triethylamine (2.27 g) in dichloromethane (30 ml) was added 3-nitrobenzoyl chloride (2.78 g) in an ice-water bath. The mixture was stirred at ambient temperature for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution, water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified with column chromatography eluting with dichloromethane-methanol to give N,N-bis(2-methoxyethyl)-3-nitrobenzamide (4.12 g) as an oil.

reactant | N,N-bis(2-methoxyethyl)amine | 2.40 g | COCCNCCOC | C6H15NO2
reactant | triethylamine | 2.27 g | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 2.78 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N,N-bis(2-methoxyethyl)-3-nitrobenzamide | 4.12 g | COCCN(C(C1=CC(=CC=C1)[N+](=O)[O-])=O)CCOC | C13H18N2O5
